US08168788B2
Step 2: Acetic acid 1-(2-amino-4-chloro-phenyl)-4-[4-(4-chloro-benzoyl)-piperazin-1-yl]-pyrrolidin-3-yl ester
To a solution of acetic acid 4-[4-(4-chloro-benzoyl)-piperazin-1-yl]-1-(4-chloro-2-nitro-phenyl)-pyrrolidin-3-yl ester (140 mg, 0.31 mmol) in ethanol (1 mL), was added Pt (S) (28 mg, 20 weight %) and HCOONH4 (87 mg, 1.38 mmol). The mixture was stirred at reflux for 1 h. After cooling, the mixture was filtered through celite and concentrated to give the desired compound as a light purple oil (67 mg, 50% yield). MS: (ESI), M/Z, 477 (M+1). Retention time: 2.28 min (FA-polar).

reactant | acetic acid 4-[4-(4-chloro-benzoyl)-piperazin-1-yl]-1-(4-chloro-2-nitro-phenyl)-pyrrolidin-3-yl ester | 0.31 mmol, 140 mg | ClC1=CC=C(C(=O)N2CCN(CC2)C2C(CN(C2)C2=C(C=C(C=C2)Cl)[N+](=O)[O-])OC(C)=O)C=C1 | C23H24Cl2N4O5
reactant | HCOONH4 | 1.38 mmol, 87 mg | C(=O)[O-].[NH4+]
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | Acetic acid 1-(2-amino-4-chloro-phenyl)-4-[4-(4-chloro-benzoyl)-piperazin-1-yl]-pyrrolidin-3-yl ester | 67 mg, 50% yield | NC1=C(C=CC(=C1)Cl)N1CC(C(C1)N1CCN(CC1)C(C1=CC=C(C=C1)Cl)=O)OC(C)=O | C23H26Cl2N4O3
